US04996202
A. 8-Acetamido-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine
3.4 g of 8-amino-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine in 50 ml of methylene chloride was treated with 4 ml of acetic anhydride followed by addition of 10 mg. of 4-dimethylaminopyridine. The resulting mixture was stirred at room temperature for 2 hours, and the solvent was removed in vacuo. The residue was stirred with a mixture of ether and sodium bicarbonate solution for 1 hour. The ether layer was separated, dried over sodium sulfate and evaporated in vacuo. The resulting crude product of this example (3.1 g) was used in the following step B.

reactant | 8-amino-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 3.4 g | NC=1C(=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)C1)Cl | C17H19ClN2
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 8-Acetamido-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)NC=1C(=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)C1)Cl | C19H21ClN2O
